US06207678B1
1-Methanesulphonyloxy-3-(3,4-dichlorophenyl)-4-{2-[3,5-bis(trifluoromethyl)benzoyl]imidazol-1-yl}butane (0.7 g) (see Preparation 85) and 4-phenylquinuclidine (0.32 g) (see J. Org. Chem., 22, 1484,(1957)) were dissolved in acetonitrile (10 ml) and the mixture heated under reflux for 18 hours. The solvent was removed under reduced pressure and the resulting residue dissolved in dichloromethane and washed twice with 2N aqueous hydrochloric acid solution. The organic phase was then dried over anhydrous sodium sulphate and the solvent removed under reduced pressure to give a residue which was chromatographed on silica gel eluting with a solvent gradient of 95:5 changing to 90:10, by volume, dichloromethane:methanol to give 4-phenyl-1-(3-[3,4-dichlorophenyl]-4-{2-[3,5-bis(trifluoromethyl)benzoyl]imidazol-1-yl}butyl)quinuclidinium chloride (0.37 g) as a white foam.

reactant | 1-Methanesulphonyloxy-3-(3,4-dichlorophenyl)-4-{2-[3,5-bis(trifluoromethyl)benzoyl]imidazol-1-yl}butane | 0.7 g | CS(=O)(=O)OCCC(CN1C(=NC=C1)C(C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O)C1=CC(=C(C=C1)Cl)Cl | C23H18Cl2F6N2O4S
reactant | 4-phenylquinuclidine | 0.32 g | C1(=CC=CC=C1)C12CCN(CC1)CC2 | C13H17N
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 4-phenyl-1-(3-[3,4-dichlorophenyl]-4-{2-[3,5-bis(trifluoromethyl)benzoyl]imidazol-1-yl}butyl)quinuclidinium chloride | 0.37 g | [Cl-].C1(=CC=CC=C1)C12CC[N+](CC1)(CC2)CCC(CN2C(=NC=C2)C(C2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F)=O)C2=CC(=C(C=C2)Cl)Cl | InChI=1S/C35H32Cl2F6N3O.ClH/c36-29-7-6-23(20-30(29)37)24(8-14-46-15-9-33(10-16-46,11-17-46)26-4-2-1-3-5-26)22-45-13-12-44-32(45)31(47)25-18-27(34(38,39)40)21-28(19-25)35(41,42)43;/h1-7,12-13,18-21,24H,8-11,14-17,22H2;1H/q+1;/p-1
